US07297715B2
The desired 6-chloro-2,2-dimethylchroman-7-ol was synthesized from 4-chlororesorcinol as follows. A mixture of 3,3-dimethylacrylic acid (7.0 g) and 4-chlororesorcinol (10 g) in Eaton's reagent (50 mL) was stirred at ambient temperature for 16 h. At the end, the mixture was poured over ice and the precipitate was filtered, dried and crystallized from aqueous methanol to provide 6-chloro-7-hydroxy-2,2-dimethyl-2,3-dihydro-4H-chomen-4-one (8.7 g).

reactant | 4-chlororesorcinol | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | 3,3-dimethylacrylic acid | 7.0 g | CC(=CC(=O)O)C | C5H8O2
reactant | 4-chlororesorcinol | 10 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
solvent | Eaton's reagent | 50 mL | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
product | 6-chloro-2,2-dimethylchroman-7-ol | ClC=1C=C2CCC(OC2=CC1O)(C)C | C11H13ClO2
